US08735398B2
(S)-2-(Methoxycarbonylamino)propanoic acid
L-Alanine (2.0 g, 22.5 mmol) was dissolved in 10% aqueous sodium carbonate solution (50 mL), and a THF (50 mL) solution of methyl chloroformate (4.0 mL) was added to it. The reaction mixture was stirred under ambient conditions for 4.5 hours and concentrated in vacuo. The resulting white solid was dissolved in water and acidified with 1N HCl to a pH ˜2-3. The resulting solutions was extracted with ethyl acetate (3×100 mL), and the combined organic phase was dried (Na2SO4), filtered, and concentrated in vacuo to provide a colorless oil (2.58 g). 500 mg of this material was purified by a reverse phase HPLC (H2O/methanol/TFA) to provide 150 mg of Cap-12 as a colorless oil. 1H NMR (DMSO-d6, δ=2.5, 500 MHz) 7.44 (d, J=7.3, 0.8H), 7.10 (br s, 0.2H), 3.97 (m, 1H), 3.53 (s, 3H), 1.25 (d, J=7.3, 3H).

reactant | L-Alanine | 22.5 mmol, 2.0 g | N[C@@H](C)C(=O)O | C3H7NO2
reactant | THF | 50 mL | C1CCOC1 | C4H8O
reactant | methyl chloroformate | 4.0 mL | ClC(=O)OC | C2H3ClO2
solvent | sodium carbonate | 50 mL | C([O-])([O-])=O.[Na+].[Na+]
product | (S)-2-(Methoxycarbonylamino)propanoic acid | 2.58 g | COC(=O)N[C@H](C(=O)O)C | C5H9NO4
